US08975254B2
N—((S)-1-(3-(3,5-dichloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(1-hydroxyethyl)-1H-pyrazole-5-carboxamide
The title compound was prepared from (S)-3-acetyl-N-(1-(3-(3,5-dichloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-5-carboxamide (63 mg, 0.15 mmol) and sodium borohydride (11 mg, 0.29 mmol) using the method of Example 84. Yield 15 mg. 1H NMR (400 MHz; CDCl3): δ 1.23 (d, 3H), 1.54 (d, 3H), 4.34 (m, 2H), 4.54 (m, 1H), 4.96 (q, 1H), 6.61 (m, 2H), 7.52 (d, 1H), 7.90 (m, 2H).

reactant | (S)-3-acetyl-N-(1-(3-(3,5-dichloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-5-carboxamide | 0.15 mmol, 63 mg | C(C)(=O)C1=NNC(=C1)C(=O)N[C@H](CN1N=C(C=C1)C1=CC(=C(C(=C1)Cl)C#N)Cl)C | C19H16Cl2N6O2
reactant | sodium borohydride | 0.29 mmol, 11 mg | [BH4-].[Na+]
product | N—((S)-1-(3-(3,5-dichloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(1-hydroxyethyl)-1H-pyrazole-5-carboxamide | ClC=1C=C(C=C(C1C#N)Cl)C1=NN(C=C1)C[C@H](C)NC(=O)C1=CC(=NN1)C(C)O | C19H18Cl2N6O2
